US07598423B2
Synthesis of 3-[1-(4-triisopropylsilanyloxymethyl-phenyl)-vinyl]-benzonitrile
A mixture of methyltriphenylphosphonium bromide (0.2 g, 0.56 mmol) and tetrahydrofuran (10 mL) is stirred at 0° C. Potassium tert-butoxide (72 mg, 0.64 mmol) is added and the yellow solution is stirred 10 min at room temperature. The solution is cooled to 0° C. and 3-(4-Triisopropylsilanyloxymethyl-benzoyl)-benzonitrile (0.2 g, 0.51 mmol) is added. The resulting orange reaction is stirred 1 hr at room temperature. The reaction is diluted with water and extracted with ethyl acetate (2×50 mL). The extracts are combined, dried on magnesium sulfate, filtered, and concentrated. The residue is purified via silica chromatography eluting with hexanes to 9:1 hexanes:ethyl acetate to give 90 mg, 45%, as a colorless wax. 1H NMR (CDCl3) δ 7.60-7.67 (m, 3H), 7.47 (t, 1H), 7.37-7.40 (m, 2H) 7.27-7.28 (2H), 5.60 (s, 1H), 5.50 (s, 1H), 1.10-1.29 (m, 21H).

reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | Potassium tert-butoxide | 0.64 mmol, 72 mg | CC(C)([O-])C.[K+]
reactant | 3-(4-Triisopropylsilanyloxymethyl-benzoyl)-benzonitrile | 0.51 mmol, 0.2 g | C(C)(C)[Si](OCC1=CC=C(C(=O)C=2C=C(C#N)C=CC2)C=C1)(C(C)C)C(C)C | C24H31NO2Si
catalyst | methyltriphenylphosphonium bromide | 0.56 mmol, 0.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 3-[1-(4-triisopropylsilanyloxymethyl-phenyl)-vinyl]-benzonitrile | C(C)(C)[Si](OCC1=CC=C(C=C1)C(=C)C=1C=C(C#N)C=CC1)(C(C)C)C(C)C | C25H33NOSi
